US08193178B2
Step B: 4-Chloro-6,7,8,9-tetrahydro-benzo[4,5]furo[3,2-d]pyrimidine
A 15 mL sealed tube was charged with 6,7,8,9-tetrahydro-benzo[4,5]furo[3,2-d]pyrimidin-4-ol (0.31 g, 1.6 mmol) and POCl3 (3 mL), sealed, and heated to 110° C. After 30 min, POCl3 was removed under reduced pressure and the resultant residue was purified by FCC (40% EtOAc/hexanes) to afford the desired product as a white solid (0.27 g). MS: 189.0 (negative mode). 1H NMR (400 MHz, d6-DMSO) δ ppm 8.00 (s, 1H), 2.74-2.67 (m, 2H), 2.57-2.51 (m, 2H), 1.90-1.82 (m, 2H), 1.80-1.70 (m, 2H).

reactant | 6,7,8,9-tetrahydro-benzo[4,5]furo[3,2-d]pyrimidin-4-ol | 1.6 mmol, 0.31 g | N1=CN=C(C2=C1C1=C(O2)CCCC1)O | C10H10N2O2
reactant | POCl3 | 3 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-6,7,8,9-tetrahydro-benzo[4,5]furo[3,2-d]pyrimidine | 0.27 g | ClC=1C2=C(N=CN1)C1=C(O2)CCCC1 | C10H9ClN2O
